US03956335
A solution of 10.3 g of 1-(o-allyloxy-phenoxy)-2,3-epoxy-propane and 9.15 g of 1-(4-piperidyl)-2-oxo-hexahydro-pyrimidine in 7 ml abs. ethanol is heated for 5 hours to 95°C and then evaporated in vacuo. The residue is recrystallised from isopropanol to yield the 1-[3-(o-allyloxy-phenoxy)-2-hydroxypropyl]-4-(2-oxo-hexahydro-1-pyrimidinyl)piperidine, which melts at 122°-125°C.

reactant | 1-(o-allyloxy-phenoxy)-2,3-epoxy-propane | 10.3 g | C(C=C)OC1=C(OCC2CO2)C=CC=C1 | C12H14O3
reactant | 1-(4-piperidyl)-2-oxo-hexahydro-pyrimidine | 9.15 g | N1CCC(CC1)N1C(NCCC1)=O | C9H17N3O
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-(o-allyloxy-phenoxy)-2-hydroxypropyl]-4-(2-oxo-hexahydro-1-pyrimidinyl)piperidine | C(C=C)OC1=C(OCC(CN2CCC(CC2)N2C(NCCC2)=O)O)C=CC=C1 | C21H31N3O4
